US07473445B2
Vinyl benzyl chloride grafted film was synthesized by immersing an argon plasma pretreated LDPE film into a degassed monomer solution of 5 vol % using ethanol as solvent, and exposing the setup to near UV-irradiation for 2 h. The grafted film was subjected to prolonged washing with DMF before it was reacted with 0.024 M 4,4′-bipyridine in a water bath at 70° C. for 20 h, followed by 0.4 M benzyl chloride, again in a water bath at 70° C. for 20 h. Both reaction steps were carried out using DMF as solvent. The film was washed with DMF after both reaction steps to remove unreacted reactants. The viologen grafted film was finally immersed into a reaction mixture containing 0.10 M aniline and 0.025 M ammonium persulfate in 0.5 M HClO4 for 2 h. The green polyaniline (in the emeraldine state) was undoped in 0.5M NaOH for 1 h, washed in deionized water and dried under reduced pressure. The base film was exposed to near UV-light emitted from a 1 kW mercury lamp for 1 h. The sheet resistance of the film decreased from 1010 Ω/sq. (before irradiation) to 105 Ω/sq.(after irradiation). The change in Rs with respect to irradiation time is shown in FIG. 1.

reactant | benzyl chloride | 0.4 M | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | ethanol | C(C)O | C2H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | Vinyl benzyl chloride | C(=C)C(C1=CC=CC=C1)Cl | C9H9Cl
